US04734123
Preparation of N-(2-chloro-6-methylphenyl)-5-formamido-1,2,4-triazole-3-sulfonamide
A solution of 4.0 g (11.8 mmol) of N-(2-chloro-6-methylphenyl)-6-methyl-1,2,4-triazolo-[1,5-a]pyrimidine-2-sulfonamide in 120 ml of water containing 2.7 g (49 mmol) of potassium hydroxide. To this solution was added 14 ml of 35 percent aqueous hydrogen peroxide via dropwise addition. A mild exotherm resulted and the rate of addition of the oxidant was used to keep the temperature between 30°-35°. After 1 h the light yellow solution was acidified with 6N aqueous HCl and excess oxidant decomposed by addition of sodium sulfite until a negative peroxide paper test was achieved. The resulting solid was collected and again dissolved in 50 ml of ethanol and a minimum amount of aqueous saturated bicarbonate. The solution was acidified with aqueous HCl to afford 3.0 g (80 percent) of product as a white powder; mp 291°-300° C. decomposition.

reactant | N-(2-chloro-6-methylphenyl)-6-methyl-1,2,4-triazolo-[1,5-a]pyrimidine-2-sulfonamide | 11.8 mmol, 4.0 g | ClC1=C(C(=CC=C1)C)NS(=O)(=O)C1=NN2C(N=CC(=C2)C)=N1 | C13H12ClN5O2S
reactant | water | 49 mmol, 120 ml, 2.7 g | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrogen peroxide | 14 ml | OO | H2O2
reactant | HCl | 6N | Cl | ClH
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
product | N-(2-chloro-6-methylphenyl)-5-formamido-1,2,4-triazole-3-sulfonamide | 3.0 g, 80 percent | ClC1=C(C(=CC=C1)C)NS(=O)(=O)C1=NNC(=N1)NC=O | C10H10ClN5O3S
